US05212158
Following the general procedure described in example 1, step 2, for cinnamoyl-glycine methyl ester, glycine methyl ester hydrochloride (7.5 g) was suspended in tetrahydrofuran, cooled to 0° C., treated with N-methylmorpholine (8.4 ml, 1 equivalent), followed immediately by a precooled solution of 4-fluorocinnamic acid (10.0 g) in tetrahydrofuran, which had been pre-activated by treatment with dicyclohexylcarbodiimide (12.4 g, 1 equivalent) and 1-hydroxybenzotriazole (9.2 g). After work-up, 4-fluorocinnamoyl-glycine methyl ester was obtained as a white solid which was used for the next step without further purification.

reactant | cinnamoyl-glycine methyl ester | COC(CNC(C=CC1=CC=CC=C1)=O)=O | C12H13NO3
reactant | glycine methyl ester hydrochloride | 7.5 g | Cl.COC(CN)=O
reactant | N-methylmorpholine | 8.4 ml, 1 equivalent | CN1CCOCC1 | C5H11NO
reactant | 4-fluorocinnamic acid | 10.0 g | FC1=CC=C(C=CC(=O)O)C=C1 | C9H7FO2
reactant | dicyclohexylcarbodiimide | 12.4 g, 1 equivalent | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 9.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-fluorocinnamoyl-glycine methyl ester | COC(CNC(C=CC1=CC=C(C=C1)F)=O)=O | C12H12FNO3
